US07855211B2
(5-Bromo-2-nitro-phenyl)-cyclopentyl-amine
Add cyclopentanamine (32 mL) to a solution of 2,4-dibromo-1-nitro-benzene (20 g) in 1-butanol (160 mL). Heat the mixture at 100° C. overnight. Remove the solvent under vacuum, add water and extract with EA. Wash the organic layer sequentially with an aqueous saturated solution of sodium bicarbonate and then water. Dry over magnesium sulfate and remove the solvent under vacuum to afford 22 g of the title compound. MS (ES+): m/z=286 (M+H)+.

reactant | cyclopentanamine | 32 mL | C1(CCCC1)N | C5H11N
reactant | 2,4-dibromo-1-nitro-benzene | 20 g | BrC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
solvent | 1-butanol | 160 mL | C(CCC)O | C4H10O
product | (5-Bromo-2-nitro-phenyl)-cyclopentyl-amine | 22 g | BrC=1C=CC(=C(C1)NC1CCCC1)[N+](=O)[O-] | C11H13BrN2O2
